US07320994B2
1-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazol-4-yl]-3-(2-chloro-phenyl)-propane-1,3-dione
Add lithium diisopropylamide (6 mL, 1.0 M in THF) to a solution of 1-(2-chloro-phenyl)-ethanone (0.929 g, 6.01 mmol) in THF (10 mL) at −78° C. and stir for 30 min. To the above enolate solution at −78° C., add a solution of 1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazole-4-carboxylic acid methoxy-N-methyl-amide (1.29 g, 2.81 mmol) in THF (15 mL) via cannula. Warm solution to 70° C. and stir for 4 hours, than add 1N HCl (6 mL) and stir for an additional 30 min. Concentrate the mixture in vacuo to ¼ volume, dilute with EtOAc (60 mL) and wash with water (30 mL), saturated NaHCO3 (30 mL), and brine (30 mL). Dry, filter, and concentrate the organic phase and purify the crude material by flash chromatography using a linear gradient of 20% to 80% EtOAc/hexanes to give the title compound (1.07 g, 69%) as an orange foam. MS (IS) 553.2 (M+1), MS (ES−) 551.2 (M−1). 1H NMR (400 MHz, CDCl3): δ 15.5 (m, 1H), 7.78 (dd, 1H, J=1.3, 4.8), 8.54 (d, 1H, J=2.2), 7.81 (s, 1H), 7.64 (dd, 1H, J=2.0, 7.7), 7.57 (dt, 1H, J=2.0, 7.9), 7.44 (m, 4H), 7.38 (dt, 1H, J=1.8, 7.5), 7.33 (dt, 1H, J=1.5, 7.5), 7.19 (s, 1H), 5.59 (s, 2H).

reactant | lithium diisopropylamide | 1.0 M, 6 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(2-chloro-phenyl)-ethanone | 6.01 mmol, 0.929 g | ClC1=C(C=CC=C1)C(C)=O | C8H7ClO
reactant | 1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazole-4-carboxylic acid methoxy-N-methyl-amide | 2.81 mmol, 1.29 g | CON(C(=O)C=1N=NN(C1C=1C=NC=CC1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C19H15F6N5O2
reactant | HCl | 1N, 6 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazol-4-yl]-3-(2-chloro-phenyl)-propane-1,3-dione | 1.07 g, 69% | FC(C=1C=C(CN2N=NC(=C2C=2C=NC=CC2)C(CC(=O)C2=C(C=CC=C2)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C25H15ClF6N4O2
